US04235926
(b) 1(4-chlorophenyl)cyclobutane carboxylic acid
1-(4-chlorophenyl)cyclobutane nitrile (5 g) was mixed with ethylene glycol (60 ml) and 40% w/w aqueous potassium hydroxide solution (80 ml) and refluxed under argon for 18 hours. The mixture was cooled, added to ice water nd extracted with diethyl ether. The aqueous layer was acidified and the precipitate was filtered off, washed with water, dried and recrystallized from petroleum ether (b.p. 40°-60°) to give the acid as white needles mp 88°-89°, yield, 4.5 g (82%).

reactant | 1-(4-chlorophenyl)cyclobutane nitrile | 5 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | potassium hydroxide | 80 ml | [OH-].[K+]
reactant | ethylene glycol | 60 ml | C(CO)O | C2H6O2
product | 1(4-chlorophenyl)cyclobutane carboxylic acid | ClC1=CC=C(C=C1)C1(CCC1)C(=O)O | C11H11ClO2
